US07678834B2
A solution of benzo[b]furan (612 mg, 5.12 mmol) in dry THF (40 ml) was cooled to −8° C. under a stream of argon. Thereafter, tert-Butyllithium (6.22 mmol, 4.14 ml of a 1.5 molar pentane solution) was added dropwise such that a reaction temperature of −5° C. was not exceeded during the addition. When the addition had ended the reaction mixture was stirred for two hours at −5° C. Thereafter, a solution of 4-benzyl-4-dimethylaminocyclohexanone (1.20 g, 5.18 mmol) in dry THF (10 ml) was added dropwise at 0° C. The mixture was stirred for one hour at 0° C. and then for four days at room temperature. The reaction mixture was quenched with saturated ammonium chloride solution (20 ml), the organic phase was separated and the aqueous phase was extracted four times with 30 ml methylene chloride each time. The combined organic phases were dried over sodium sulfate and filtered and the solvent was removed in vacuo. Purification was carried out by means of flash chromatography over silica gel with cyclohexane/ethyl acetate (v/v=8:2). 380 mg 1-benzofuran-2-yl-4-benzyl-4-dimethylaminocyclohexanol with a melting point of 121-124° C. were obtained.

reactant | benzo[b]furan | 5.12 mmol, 612 mg | O1C2=C(C=C1)C=CC=C2 | C8H6O
reactant | tert-Butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 1.5 molar | CCCCC | C5H12
reactant | 4-benzyl-4-dimethylaminocyclohexanone | 5.18 mmol, 1.20 g | C(C1=CC=CC=C1)C1(CCC(CC1)=O)N(C)C | C15H21NO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-benzofuran-2-yl-4-benzyl-4-dimethylaminocyclohexanol | 380 mg | O1C(=CC2=C1C=CC=C2)C2(CCC(CC2)(N(C)C)CC2=CC=CC=C2)O | C23H27NO2
